US09238640B2
Preparation of 2-(4-((4-Isopropylpiperazin-1-yl)methyl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one
A mixture of 4-((4-isopropylpiperazin-1-yl)methyl)benzaldehyde (0.240 g, 0.97 mmol), NaHSO3 (0.155 g, 1.50 mmol), and p-TsOH (0.019 g, 0.10 mmol) was added to a solution of 2-amino-4,6-dimethoxybenzamide (0.190 g, 0.97 mmol) in DMA (7 mL). The reaction was stirred at 130° C. overnight. Then, the mixture was diluted with H2O and extracted with CH2Cl2. The organics were washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. Purification by flash chromatography on silica gel, eluting with 2% to 10% MeOH/CH2Cl2, afforded the title compound (0.122 g, 30%) as a light yellow solid. 1H NMR (300 MHz, DMSO-d6): δ 12.02 (s, 1H), 8.12 (d, J=8.0 Hz, 2H), 7.43 (d, J=8.0 Hz, 2H), 6.74 (s, 1H), 6.53 (s, 1H), 3.89 (s, 3H), 3.85 (s, 3H), 3.51 (s, 2H), 2.54-2.71 (m, 1H), 2.27-2.44 (m, 8H), 0.95 (d, J=6.4 Hz, 6H). ESI MS m/z 423 [M+H]+.

reactant | 4-((4-isopropylpiperazin-1-yl)methyl)benzaldehyde | 0.97 mmol, 0.240 g | C(C)(C)N1CCN(CC1)CC1=CC=C(C=O)C=C1 | C15H22N2O
reactant | NaHSO3 | 1.50 mmol, 0.155 g | OS(=O)[O-].[Na+]
reactant | p-TsOH | 0.10 mmol, 0.019 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | 2-amino-4,6-dimethoxybenzamide | 0.97 mmol, 0.190 g | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
solvent | DMA | 7 mL | CC(=O)N(C)C | C4H9NO
solvent | H2O | O | H2O
product | 2-(4-((4-Isopropylpiperazin-1-yl)methyl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.122 g, 30% | C(C)(C)N1CCN(CC1)CC1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C24H30N4O3
